US04160829
Under anhydrous conditions, a solution of approximately 1.2 mol of n-butyl lithium in n-hexane was added dropwise over 3 hours to an efficiently cooled solution of 66 g (0.58 mol) of 3-hydroxymethyl-5-methyl-1,2,4-oxadiazol and 87 ml of N,N,N',N'-tetramethyl ethylene diamine in 1200 ml of tetrahydrofuran and during the addition, the reaction temperature was not allowed to rise above -70° C. The reaction mixture was stirred for 1 hour at -70° C. and under efficient cooling, dried gaseous carbon dioxide was passed over the surface of the stirred reaction mixture for ten hours at -70° C. Subsequently, the temperature was allowed to rise gradually to -5° C. and the formed precipitate was collected by vacuum filtration and was washed with dry ethyl acetate and with n-hexane. The precipitate was dissolved slowly by adding it in small portions to a stirred icy-cold mixture of 500 ml of water and 500 ml of diethyl ether and concentrated phosphoric acid was added till the pH was 4.0. The layers were separated and the organic layer discarded. The water-layer was further acidified to a pH of 2.0 and subsequently evaporated in vacuo. Remnants of water in the residue were removed in vacuo with the help of benzene and the residue was dried in vacuo over phosphorous pentoxide for 16 hours. The syrupy product was stirred with 500 ml of acetone at about 35° C. and the acetone was decanted. This was repeated once whereupon the residue became a solid mass which was transferred to a filter and repeatedly stirred with 500 ml portions of acetone until according to thin-layer chromatograms the filtrate no longer contained the desired compound. All filtrates were combined (total of about 4000 ml) and concentrated in vacuo to a volume of about 300 ml. 600 ml of ethyl acetate were added and the resulting solution was again concentrated in vacuo to a final volume of about 250 ml. The resulting crystalline precipitate was vacuum filtered, washed with dry ethyl acetate and with carbon tetrachloride. After drying in vacuo, 41 g of 3-hydroxymethyl-1,2,4-oxadiazol-5-yl-acetic acid were obtained with melting and decomposition taking place between about 96° and 98° C. The filtrate was evaporated in vacuo and the oily residue was repeatedly stirred with small volumes of dichloromethane. The resulting solid was transferred to a filter and washed with ethyl acetate and carbon tetrachloride. After drying, the second crop of said product weighed 14.1 g and melted with extensive decomposition at 92°-96° C. According to thin-layer chromatograms, IR and PMR spectra both crops were virtually identical for a total of 45.1 g (about 55% yield) of about 96% purity.

reactant | n-butyl lithium | approximately 1.2 mol | C(CCC)[Li]
reactant | 3-hydroxymethyl-5-methyl-1,2,4-oxadiazol | 0.58 mol, 66 g | OCC1=NOC(=N1)C | C4H6N2O2
reactant | N,N,N',N'-tetramethyl ethylene diamine | 87 ml | CN(CCN(C)C)C | C6H16N2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 1200 ml | O1CCCC1 | C4H8O
product | 3-hydroxymethyl-1,2,4-oxadiazol-5-yl-acetic acid | 41 g, about 55% yield | OCC1=NOC(=N1)CC(=O)O | C5H6N2O4
